US08236988B2
Aniline (209.5 g, 2.25 mol) was treated with ethylaluminum sesquichioride (39.0 g, 0.158 mol) in the reactor as described in Example 1. 4-Methyl-1-pentene (190 g, 2.26 mol) was added and the mixture was held at 260-262° C. for 17 hours. Reactor contents were cooled to ambient temperature and treated with 25% aqueous sodium hydroxide solution. Aqueous phase was removed and the organic phase (388 g) was analyzed to contain 21.9 wt % aniline and 41.1 wt % 2-(1,3-dimethylbutyl)aniline. Aniline conversion was found to be 59.4% and 2-(1,3-dimethylbutyl)aniline yield was found to be 40% based on aniline charged or 67.3% based on aniline reacted. Crude product from this and from another similar experiment were combined and the total (767 g) was fractionally distilled at reduced pressure to give 290 g of pure 2-(1,3-dimethylbutyl)aniline (290 g, 36% yield based on aniline charged).

reactant | Aniline | 2.25 mol, 209.5 g | NC1=CC=CC=C1 | C6H7N
reactant | 4-Methyl-1-pentene | 2.26 mol, 190 g | CC(CC=C)C | C6H12
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | ethylaluminum sesquichioride | 0.158 mol, 39.0 g | CC[Al](CC)Cl.CC[Al](Cl)Cl
product | 2-(1,3-dimethylbutyl)aniline | 290 g, 36% yield | CC(CC(C)C)C1=C(N)C=CC=C1 | C12H19N
